US07642264B2
2-Chloro-6-ethyl-4-(4-trifluoromethyl-phenyl)-pyridine
The title compound was prepared from the above described 6-ethyl-4-(4-trifluoromethyl-phenyl)-1H-pyridin-2-one (4.6 g, 17.2 mmol) and phosphoryl chloride (7.85 mL, 86.1 mmol) according to the general procedure Ia to d preparation of chlorides. Obtained as a light yellow solid (2.2 g, 44%). MS (ISP) 286.1 [(M+H)+] and 288.0 [(M+2+H)+].

reactant | 6-ethyl-4-(4-trifluoromethyl-phenyl)-1H-pyridin-2-one | 17.2 mmol, 4.6 g | C(C)C1=CC(=CC(N1)=O)C1=CC=C(C=C1)C(F)(F)F | C14H12F3NO
reactant | phosphoryl chloride | 86.1 mmol, 7.85 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-6-ethyl-4-(4-trifluoromethyl-phenyl)-pyridine | ClC1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)CC | C14H11ClF3N
